US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-4-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
To a flask containing 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (below) (0.25 g, 0.64 mmol) and PdCl2(dppf) (0.023 g, 0.032 mmol) is added a solution of 0.5 M 6-methyl-2-pyridylzinc bromide in THF (2.5 mL, 1.27 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (25 mL), washed with sat. NH4Cl (20 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (15%-20% EtOAc gradient) and is chromatographed (50×250 C18 Symmetry column, 10-70% water: 0.1% TFA/ACN: 0.1% TFA gradient). The residue is dissolved in Et2O (20 mL), washed with sat. NaHCO3 (15 mL) dried over MgSO4, filtered and concentrated to furnish the title compound (0.066 g, 1.57 mmol, 31%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.73-1.91 (m, 4H), 2.20 (s, 3H), 2.47 (s, 3H), 2.49 (s, 3H), 2.61 (s, 3H), 3.29-3.38 (m, 1H), 6.66 (s, 1H), 7.09 (d, J=7.5 Hz, 1H), 7.43 (d, J=7.8 Hz, 1H), 7.54 (dd, J=7.5, 7.8 Hz, 1H), 7.72 (s, 1H). LC/MS (m/z): calcd. for C24H28N4S (M+H)+: 405.2; found: 405.3.

reactant | 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.64 mmol, 0.25 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | 6-methyl-2-pyridylzinc bromide | 0.5 M | [Br-].CC1=CC=CC(=N1)[Zn+]
reactant | THF | 1.27 mmol, 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.032 mmol, 0.023 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-4-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 1.57 mmol, 0.066 g, 31% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC=C(C2C)C2=NC(=CC=C2)C | C24H28N4S
